US05972978
Carbazole (8.25 g, 49 mmol) was dissolved in N,N'-dimethylformamide (100 ml). Under a atmosphere of nitrogen was added sodium hydride (2.56 g, 64 mmol of a 60% suspension in mineral oil) in portion during 15 minutes. The mixture was then stirred at room temperature for 0.5 h. To the resulting mixture was added 4-phenylbenzylchloride (10 g, 49 mmol) in portions during 10 minutes. Then additional N,N'-dimethylformamide (100 ml) was added and the mixture was stirred at room temperature for 3.5 h. Water (125 ml) was added and the mixture was stirred vigorously at room temperature for 0.5 h, the solid formed was filtered off, washed with water (2×100 ml) and with hexane (2×100 ml). Drying in vacuo at 50° C. for 16 h afforded 15.9 g (97%) of 9-(biphenyl-4-ylmethyl)-9H-carbazole as a solid.

reactant | Carbazole | 49 mmol, 8.25 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | sodium hydride | [H-].[Na+]
reactant | 4-phenylbenzylchloride | 49 mmol, 10 g | C1(=CC=CC=C1)C1=CC=C(CCl)C=C1 | C13H11Cl
reactant | Water | 125 ml | O | H2O
solvent | N,N'-dimethylformamide | 100 ml | CN(C)C=O | C3H7NO
solvent | N,N'-dimethylformamide | 100 ml | CN(C)C=O | C3H7NO
product | 9-(biphenyl-4-ylmethyl)-9H-carbazole | 15.9 g, 97% | C1(=CC=C(C=C1)CN1C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C25H19N
